US06900244B2
Step 1 2-[Methyl(phenyl)amino]ethyl propionate
To a solution of 2-[methyl(phenyl)amino]ethanol (500 mg, 3.3 mmol) in CH2Cl2 (17 mL) was added triethylamine (1.4 mL, 9.9 mmol) followed by propionyl chloride (0.4 mL, 5.0 mmol). After stirring at ambient temperature over 18 hours, the reaction mixture was diluted with EtOAc and washed several times with brine. The organic layer was dried (Na2SO4) and concentrated to afford the title compound (700 mg, quantitative yield). MS (ES+) m/z 208 (MH+).

reactant | 2-[methyl(phenyl)amino]ethanol | 3.3 mmol, 500 mg | CN(CCO)C1=CC=CC=C1 | C9H13NO
reactant | triethylamine | 9.9 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 5.0 mmol, 0.4 mL | C(CC)(=O)Cl | C3H5ClO
solvent | CH2Cl2 | 17 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[Methyl(phenyl)amino]ethyl propionate | 700 mg, quantitative yield | C(CC)(=O)OCCN(C1=CC=CC=C1)C | C12H17NO2
